reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](/[C:2](=[C:3]1/[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:8])[H:7]>>[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],25.762951141330404
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]([O:5][H:14])([C:6]([H:10])([H:15])[H:16])[C@@:7]12[H:17],94.8046548155576
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:2](=[O+:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])[H:11].[C:1]([H:8])([H:9])([H:10])[H:12],91.6961925912245
[C:1]([N:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]#[N:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:8])[N:2]([H:10])[C@:3]([C:4]([H:12])([H:13])[H:14])([H:11])[C:5][N:6]1[H:9],79.1557822250453
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]1([H:9])[C:4]([N:3]([H:10])[H:11])=[N:5]1)([H:6])([H:7])[H:8],93.9001428485845
[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N+:2]([C-:3]([C:6]#[N:7])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],93.53111791961149
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[O:6][C:5]1([H:14])[H:15])([H:7])([H:8])[H:9].[O:4]([H:13])[H:16],79.8118426443387
[N:1](=[C:2](/[O:3][C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7],69.71670349970658
[C:1]([O:2][C:3]([C:4](=[O:5])[N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3](=[C:4](/[O:5][H:11])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],65.04620248903599
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O+:7]=[C-:6][H:13])([H:11])[H:12])([H:8])([H:9])[H:10],118.359617313141
[O:1]=[C:2]=[C:3]=[C:4]([C:5]#[C:6][H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[C:6][H:8],84.231787612787
[C:1](/[C:2](=[N:3]/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:12])([H:8])([H:9])[H:10].[H:11][H:13]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],60.83085862524861
[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[N:2][C:5]([O:6][C:3](=[O:4])[H:10])([H:7])[H:11])([H:8])[H:9],102.67171290816601
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[C:5]([O:6][H:13])([H:10])([H:11])[H:12],87.93422326987749
[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]#[C:2][C@@:3]1([H:6])[C-:4]([H:8])[N+:5]1([H:7])[H:9],67.7488192526791
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1](=[C:2]=[O:3])[H:9].[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])[H:10],49.580816213430396
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@:3]1([H:12])[C@@:4]([N:6]([H:14])[H:15])([H:13])[O:5]1)([H:10])[H:11])([H:7])([H:8])[H:9],104.574309565224
[C:1]([C@@:2]([C:3](=[O:4])[H:12])(/[C:5]([O:6][H:14])=[N:7]\[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],28.9508380111331
[O:1]1[C:2]([H:7])([H:8])[C@@:3]12[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]2>>[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],45.726983095831216
[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@@:5]1([O:6][H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],74.0661063611791
[O:1]([C:2](=[C:3]=[C:4]([H:8])[H:9])[C:5]#[C:6][H:10])[H:7]>>[O:1]([C:2]([C:3]#[C:4][H:9])([C:5]#[C:6][H:10])[H:8])[H:7],81.02260069724188
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([O+:5]=[C-:4][H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],116.892536649433
[C:1]([C-:2]=[O+:3][C@:6]1([H:11])[C:4](=[O:5])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],11.375269880871201
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])=[C:6]=[C:7]([O:5][H:16])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O:5][H:16])[C:6]#[C:7][H:17])([H:11])[H:12])([H:8])([H:9])[H:10],66.51151607960334
[C:1]([N:2]([C:3]([C:4]#[N:5])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C+:1]([N:2]([C:3](=[C:4]=[N-:5])[H:11])[H:9])([H:6])[H:7].[H:8][H:10],66.7642702901291
[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2]=[C:3]([C:4](=[C:5]([O:6][H:11])[H:10])[H:9])[H:8])[H:7],77.7661331552323
